US06713479B2
Synthesis of 3-[4-(2-Methoxy-phenyl)-piperazin-1-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 3-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester (11.06 g, 0.04 mol) in acetonitrile (180 mL) was added potassium carbonate (26 g, 0.19 mol) followed by 1-(2-methoxy-phenyl) piperazine (7.25 g, 0.04 mol). After completion of addition the reaction mixture was heated to reflux. After 12 h the reaction mixture was cooled down to room temperature and quenched with water. The aqueous layer was extracted with ethyl acetate (3×100 mL). The combined organic layers were dried over sodium sulfate and concentrated to yield an oil. This crude material was purified using silica gel chromatography (7:3:0.05 Hexane:EtOAc:2M NH3 in EtOH) to afford the desired compound in good yield (8.0 g, 55%). C22H35N3O3,LRMS (m/z)=390 (MH+).

reactant | 3-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.04 mol, 11.06 g | C(C)(C)(C)OC(=O)N1CC(CCC1)COS(=O)(=O)C | C12H23NO5S
reactant | potassium carbonate | 0.19 mol, 26 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-methoxy-phenyl) piperazine | 0.04 mol, 7.25 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | acetonitrile | 180 mL | C(C)#N | C2H3N
product | 3-[4-(2-Methoxy-phenyl)-piperazin-1-ylmethyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)CN1CCN(CC1)C1=C(C=CC=C1)OC | C22H35N3O3
